US07544812B2
2-(4-{3-[1-(4-tert-Butyl-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-propyl}-2-methyl-phenoxy)-2-methyl-propionic acid
2-(4-{3-[1-(4-tert-Butyl-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-propyl}-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (0.065 g, 0.128 mmole) is treated with 3:1 MeOH/5.0N NaOH (4 mL) at room temperature overnight, and then concentrated. The resulting residue is diluted with water (2 mL), cooled down to 0° C., acidified to pH=2 by adding concentrated HCl dropwise. The aqueous suspension is loaded on a Chem elut tube and eluted with DCM (50 mL). Evaporation of methylene chloride gives the titled compound as an oil (0.060 g, 98%). Mass [EI+] 481 (M+H)+, [EI−] 479 (M−H)−.

reactant | 2-(4-{3-[1-(4-tert-Butyl-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-propyl}-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | 0.128 mmole, 0.065 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)CCCC1N(C(N(C1)CC1=CC=C(C=C1)C(C)(C)C)=O)C)C)=O | C31H44N2O4
solvent | MeOH | 5.0N, 4 mL | CO | CH4O
product | 2-(4-{3-[1-(4-tert-Butyl-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-propyl}-2-methyl-phenoxy)-2-methyl-propionic acid | 0.060 g, 98% | C(C)(C)(C)C1=CC=C(CN2C(N(C(C2)CCCC2=CC(=C(OC(C(=O)O)(C)C)C=C2)C)C)=O)C=C1 | C29H40N2O4
